US04891433
Synthesis of 5-(1-carboxyethyl)-2-phenylthiophenylacetic acid
A mixture of 4.39 g (10 mol.) of 5-(2-bromo-1,1-dimethoxypropyl)-2-phenylthiophenylacetate obtained in Example 1-(2), 4.20 g (50 mmol.) of sodium hydrogen carbonate, 50 ml of ethanol and 35 ml of water was heated under reflux and stirring for 5 hours. The reaction mixture was distilled to remove distillates having a boiling point of below 100° C. The residue was then heated under reflux for 4 hours. The mixture was treated in the same manner as in Example 6-(1) to obtain 2.15 g of the desired product as white crystals (yield 68%), m.p. 145°-146° C.

reactant | 5-(2-bromo-1,1-dimethoxypropyl)-2-phenylthiophenylacetate | 10 mol, 4.39 g | BrC(C(OC)(OC)C=1C=CC(=C(C1)CC(=O)[O-])SC1=CC=CC=C1)C
reactant | sodium hydrogen carbonate | 50 mmol, 4.20 g | C(O)([O-])=O.[Na+]
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 35 ml | O | H2O
product | 5-(1-carboxyethyl)-2-phenylthiophenylacetic acid | 2.15 g, yield 68% | C(=O)(O)C(C)C=1C=CC(=C(C1)CC(=O)O)SC1=CC=CC=C1 | C17H16O4S
